US08420655B2
2-Fluorobenzaldehyde (250 mg, 2.01 mmol), 4-methyl-1H-pyrazole (260 mg, 3.17 mmol) and potassium carbonate (820 mg, 5.93 mmol) are combined in DMSO (15 mL) and warmed to 100° C. for 18 hours. The reaction mixture is cooled to room temperature and the potassium carbonate is removed via filtration. The solids are washed with EtOAc and the combined filtrates are poured into water. Separate the layers and extract the aqueous phase with EtOAc (1×). The combined organics are washed with water and brine and dried (MgSO4), filtered, and concentrated. Purification via flash chromatography (12 g silica gel, 0-15% EtOAc/heptane) gives 2-(4-methyl-pyrazol-1-yl)-benzaldehyde.

reactant | 2-Fluorobenzaldehyde | 2.01 mmol, 250 mg | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 4-methyl-1H-pyrazole | 3.17 mmol, 260 mg | CC=1C=NNC1 | C4H6N2
reactant | potassium carbonate | 5.93 mmol, 820 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 2-(4-methyl-pyrazol-1-yl)-benzaldehyde | CC=1C=NN(C1)C1=C(C=O)C=CC=C1 | C11H10N2O
